US07060721B1
4-Bromo-2-methyl-1-((2-(trimethylsilyl)ethoxy)methyl)imidazole-5-carbaldehyde (18.5 g) was dissolved in ethanol (80 ml) and 6N hydrochloric acid (80 ml) was added. The mixture was refluxed under heating for 1 hr. The solvent was evaporated under reduced pressure and saturated aqueous sodium hydrogencarbonate solution was added under ice-cooling until the mixture assumed weak alkalinity. The precipitated crystals were collected by filtration, and the crystals were washed with methanol and heat-dried under reduced pressure to give 5-bromo-2-methylimidazole-4-carbaldehyde (9.17 g) as white crystals.

reactant | 4-Bromo-2-methyl-1-((2-(trimethylsilyl)ethoxy)methyl)imidazole-5-carbaldehyde | 18.5 g | BrC=1N=C(N(C1C=O)COCC[Si](C)(C)C)C | C11H19BrN2O2Si
reactant | hydrochloric acid | 6N, 80 ml | Cl | ClH
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 5-bromo-2-methylimidazole-4-carbaldehyde | 9.17 g | BrC1=C(N=C(N1)C)C=O | C5H5BrN2O
